US07202269B2
(R)-3-(3-Biphenyl-4-yl-ureido)-N-(2-pyrrolidin-1-yl-ethyl)-3-p-tolyl-propionamide
3-(3-Biphenyl-4-yl-ureido)-N-(2-pyrrolidin-1-yl-ethyl)-3-tolyl-propionamide. To a solution of 3-(3-biphenyl-4-yl-ureido)-3-p-tolyl-propionic acid (0.15 g, 0.40 mmol), 2-pyrrolidin-1-yl-ethylamine (0.05 g, 0.40 mmol) and HOBt (0.081 g, 0.60 mmol) in DMF (4 mL), was added EDCl (0.12 g, 0.60 mmol). The resulting solution was stirred under N2 at rt for 20 h. The solution was diluted with H2O (20 mL) and extracted with EtOAc (3×30 mL). The combined extracts were washed with brine (40 mL), dried (Na2SO4), and filtered, and the solvent was removed. The crude product was purified by column chromatography on silica gel using a gradient of 0–20% (MeOH(1% NH4OH)/CH2Cl2) to afford 0.12 g (63%) of the desired product as a white solid. Racemic compound: Rf=0.11 (10% MeOH (1% NH4OH)/CH2Cl2). MS (electrospray): mass calculated for C29H34N4O2, 470.27; m/z found, 471.3 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.57–7.50 (m, 4H), 7.43–7.37 (m, 4H), 7.29–7.25 (m, 3H), 7.16 (d, J=7.9 Hz, 2H), 5.22 (t, J=6.9 Hz, 1H), 3.28–3.23 (m, 2H), 2.68 (d, J=6.4 Hz, 2H), 2.52–2.48 (m, 6H), 2.31 (s, 3H), 1.77–1.75 (m, 4H).

reactant | 3-(3-Biphenyl-4-yl-ureido)-N-(2-pyrrolidin-1-yl-ethyl)-3-tolyl-propionamide | C1(=CC=C(C=C1)NC(NC1(CC(=CC=C1)C)C(C(=O)NCCN1CCCC1)C)=O)C1=CC=CC=C1 | C29H36N4O2
reactant | 3-(3-biphenyl-4-yl-ureido)-3-p-tolyl-propionic acid | 0.40 mmol, 0.15 g | C1(=CC=C(C=C1)NC(NC(CC(=O)O)C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C23H22N2O3
reactant | 2-pyrrolidin-1-yl-ethylamine | 0.40 mmol, 0.05 g | N1(CCCC1)CCN | C6H14N2
reactant | HOBt | 0.60 mmol, 0.081 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.60 mmol, 0.12 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | H2O | 20 mL | O | H2O
product | (R)-3-(3-Biphenyl-4-yl-ureido)-N-(2-pyrrolidin-1-yl-ethyl)-3-p-tolyl-propionamide | 0.12 g, 63% | C1(=CC=C(C=C1)NC(N[C@H](CC(=O)NCCN1CCCC1)C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C29H34N4O2
